### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Bicategory): existence of Kan extensions

### PR DESCRIPTION
**Pull request by yuma-mizuno**
This PR introduces propositional type classes for the existence of left Kan extensions/lifts, mimicking `HasColimit` instance in the category theory library.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Bicategory/Adjunction.lean [hunk 1]
```diff
@@ -292,6 +292,67 @@ end Equivalence
...
+
+/-- Use the axiom of choice to extract a right adjoint from an `IsLeftAdjoint` instance. -/
+def getRightAdjoint (f : a ⟶ b) [IsLeftAdjoint f] : RightAdjoint f :=
+  Classical.choice IsLeftAdjoint.nonempty
+
+/-- The right adjoint of a 1-morphism. -/
+def rightAdjoint (f : a ⟶ b) [IsLeftAdjoint f] : b ⟶ a :=
+  (getRightAdjoint f).right
+
+@[inherit_doc] scoped postfix:max "⁺⁺" => rightAdjoint
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Adjunction.lean:320]: Are these notions for the left and right adjoint standard in the literature?

File: Mathlib/CategoryTheory/Comma/Basic.lean [hunk 2]
```diff
@@ -177,6 +177,12 @@ section
 
 variable {L₁ L₂ L₃ : A ⥤ T} {R₁ R₂ R₃ : B ⥤ T}
 
+/-- Extract the isomorphism between the left objects from an isomorphism in the comma category. -/
+def leftIso {X Y : Comma L₁ R₁} (α : X ≅ Y) : X.left ≅ Y.left := (fst L₁ R₁).mapIso α
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Comma/Basic.lean:181]:
```suggestion
@[simps!]
def leftIso {X Y : Comma L₁ R₁} (α : X ≅ Y) : X.left ≅ Y.left := (fst L₁ R₁).mapIso α
```

File: Mathlib/CategoryTheory/Comma/Basic.lean [hunk 3]
```diff
@@ -177,6 +177,12 @@ section
...
+
+/-- Extract the isomorphism between the right objects from an isomorphism in the comma category. -/
+def rightIso {X Y : Comma L₁ R₁} (α : X ≅ Y) : X.right ≅ Y.right := (snd L₁ R₁).mapIso α
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Comma/Basic.lean:184]:
```suggestion
@[simps!]
def rightIso {X Y : Comma L₁ R₁} (α : X ≅ Y) : X.right ≅ Y.right := (snd L₁ R₁).mapIso α
```

File: Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean [hunk 4]
```diff
@@ -0,0 +1,308 @@
...
+  b
+  △ \
+  |   \ f⁺ g
+f |     \
+  |       ◿
+  a - - - ▷ c
+      g
+```
+-/
+scoped infixr:90 "⁺ " => lan
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean:76]: Again, is this a standard notation? (If so, could you add a reference to the literature in `docs/references.bib` and add it to the docstring of the file.)

File: Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean [hunk 5]
```diff
@@ -0,0 +1,308 @@
...
+/-- The 1-morphism `h` commutes with the left Kan extension `f⁺ g`. -/
+@[simps!]
+def lanCompIso : f⁺ (g ≫ h) ≅ f⁺ g ≫ h := Comma.rightIso <| lanCompIsoWhisker f g h
+
+end Lan.CommuteWith
+
+/-- We say that there exists an absolute left Kan extension of `g` along `f` if any 1-morphism `h`
+commutes with the left Kan extension `f⁺ g`. -/
+class HasAbsLeftKanExtension (f : a ⟶ b) (g : a ⟶ c) extends HasLeftKanExtension f g : Prop where
+  commute : ∀ {x : B} (h : c ⟶ x), Lan.CommuteWith f g h
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean:161]: We may prefer this syntax:
```suggestion
  commute {x : B} (h : c ⟶ x) : Lan.CommuteWith f g h
```

File: Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean [hunk 6]
```diff
@@ -0,0 +1,308 @@
...
+    (lanIsKan f g).desc s = lanDesc s :=
+  rfl
+
+theorem Lan.existsUnique [HasLeftKanExtension f g] (s : LeftExtension f g) :
+    ∃! τ, lanUnit f g ≫ f ◁ τ = s.unit :=
+  (lanIsKan f g).existsUnique _
+
+/-- We say that a 1-morphism `h` commutes with the left Kan extension `f⁺ g` if the whiskered
+left extension for `f⁺ g` by `h` is a Kan extension of `g ≫ h` along `f`. -/
+class Lan.CommuteWith
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean:117]: In the API for `Lan.CommuteWith`, I think that the lemmas should be stated not only for the chosen `lanLeftExtension f g`, but all for any left extension which satisfies `IsKan`. In particular, I think that the `Lan.CommuteWith.isKan` definition should be generalized as `LeftExtension.IsKan.whiskerOfCommute`.

File: Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean (hunk 4 above)
Comment (yuma-mizuno) [reply Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean:79]: This notation is used in Kashiwara-Schapira, and I've added the references in the header docs. Although it is not very widely used I guess, I think it is an intuitive and convenient notation that's worth using.

File: Mathlib/CategoryTheory/Bicategory/Adjunction.lean (hunk 1 above)
Comment (yuma-mizuno) [reply Mathlib/CategoryTheory/Bicategory/Adjunction.lean:320]: Regarding this, it doesn't seem that this is used anywhere else. It might be better to just write it as `right|Adjoint f`.

File: Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean (hunk 6 above)
Comment (yuma-mizuno) [reply Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean:120]: Sorry for the late reply. 

I may not understand the point yet. Could you explain in a little more detail your idea about `LeftExtension.IsKan.whiskerOfCommute`?

Comment (joelriou) [reply Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean:120]: In addition to `isKan`, we would have:
```lean
def _root_.CategoryTheory.Bicategory.LeftExtension.IsKan.whiskerOfCommute
    {f : a ⟶ b} {g : a ⟶ c} {t : LeftExtension f g} (ht : t.IsKan) {x : B} (h : c ⟶ x)
    [HasLeftKanExtension f g] [Lan.CommuteWith f g h] :
    (t.whisker h).IsKan := by
  sorry
```
Of course, `t` must be isomorphic to `lanLeftExtension`, so that this is true.

Basically, any definition/lemma where `lanLeftExtension` appears should have a version which applies to any left extension `t` which satisfies `t.IsKan`.

Then, I also think that it would be better if `CommuteWith` was like:
```lean
class Lan.CommuteWith (f : a ⟶ b) (g : a ⟶ c) {x : B} (h : c ⟶ x) : Prop :=
  hasLeftKanExtension : HasLeftKanExtension f g := by infer_instance
  commute : Nonempty <| IsKan <| (lanLeftExtension f g).whisker h
```
Also, we should have a constructor for `CommuteWith` which takes as input a `t` as above such that `t.IsKan` and `(t.whisker h).IsKan`.

Comment (yuma-mizuno) [reply Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean:120]: @joelriou Thank you for your explanation. I have added lemmas. My feeling is that these are problems of transporting `IsKan` along an isomorphism.

File: Mathlib/CategoryTheory/Bicategory/Adjunction.lean [hunk 7]
```diff
@@ -292,6 +292,63 @@ end Equivalence
...
+
+/-- A class giving a chosen right adjoint of a 1-morphism `left`. -/
+structure RightAdjoint (left : a ⟶ b) where
+  /-- The right adjoint to `left`. -/
+  right : b ⟶ a
+  /-- The adjunction between `left` and `right`. -/
+  adj : left ⊣ right
+
+/-- The existence of a right adjoint of `f`. -/
+class IsLeftAdjoint (left : a ⟶ b) : Prop where  mk' ::
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Adjunction.lean:306]:
```suggestion
class IsLeftAdjoint (left : a ⟶ b) : Prop where mk' ::
```

File: Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean [hunk 8]
```diff
@@ -0,0 +1,335 @@
...
+
+/-- Evidence that `h` commutes with the left Kan extension `f⁺ g`. -/
+def isKan : IsKan <| (lanLeftExtension f g).whisker h := Classical.choice Lan.CommuteWith.commute
+
+instance : HasLeftKanExtension f (g ≫ h) := (Lan.CommuteWith.isKan f g h).hasLeftKanExtension
+
+/-- If `h` commutes with `f⁺ g` and a left extension `t` is isomorphic to the left Kan extension
+of `g` along `f`, then `t.whisker h` is a left Kan extension. -/
+def isKanWhisker (t : LeftExtension f g) {x : B} (h : c ⟶ x) [Lan.CommuteWith f g h]
+    (i : lanLeftExtension f g ≅ t) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Kan/HasKan.lean:149]: Here, I think it would be better if instead of an iso, the assumption was `t.IsUniversal`.

File: Mathlib/CategoryTheory/Bicategory/Adjunction.lean [hunk 9]
```diff
@@ -292,6 +292,63 @@ end Equivalence
 
 end
 
+noncomputable
+section
+
+/-- A class giving a chosen right adjoint of a 1-morphism `left`. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Adjunction.lean:298]:
```suggestion
/-- A structure giving a chosen right adjoint of a 1-morphism `left`. -/
```

File: Mathlib/CategoryTheory/Bicategory/Adjunction.lean [hunk 10]
```diff
@@ -292,6 +292,63 @@ end Equivalence
...
+
+/-- The right adjoint of a 1-morphism. -/
+def rightAdjoint (f : a ⟶ b) [IsLeftAdjoint f] : b ⟶ a :=
+  (getRightAdjoint f).right
+
+/-- Evidence that `f⁺⁺` is a right adjoint of `f`. -/
+def rightAdjoint.adjunction (f : a ⟶ b) [IsLeftAdjoint f] : f ⊣ rightAdjoint f :=
+  (getRightAdjoint f).adj
+
+/-- A class giving a chosen left adjoint of a 1-morphism `right`. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Adjunction.lean:324]:
```suggestion
/-- A structure giving a chosen left adjoint of a 1-morphism `right`. -/
```

File: Mathlib/CategoryTheory/Bicategory/Adjunction.lean [hunk 11]
```diff
@@ -292,6 +292,63 @@ end Equivalence
...
+/-- Use the axiom of choice to extract a right adjoint from an `IsLeftAdjoint` instance. -/
+def getRightAdjoint (f : a ⟶ b) [IsLeftAdjoint f] : RightAdjoint f :=
+  Classical.choice IsLeftAdjoint.nonempty
+
+/-- The right adjoint of a 1-morphism. -/
+def rightAdjoint (f : a ⟶ b) [IsLeftAdjoint f] : b ⟶ a :=
+  (getRightAdjoint f).right
+
+/-- Evidence that `f⁺⁺` is a right adjoint of `f`. -/
+def rightAdjoint.adjunction (f : a ⟶ b) [IsLeftAdjoint f] : f ⊣ rightAdjoint f :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Adjunction.lean:321]: In order to have similar names in category theory and bicategory theory, I would suggest:
```suggestion
def Adjunction.ofIsLeftAdjoint (f : a ⟶ b) [IsLeftAdjoint f] : f ⊣ rightAdjoint f :=
```
Same for the other side.

**Comment by semorrison** [comment]
@yuma-mizuno, best to click "resolve" on the conversations above: it's easier for new reviewers coming in if they don't have to work out if old conversations are still active or not.

**Comment by joelriou** [comment]
Thanks!

bors merge
